US06844351B1
4-Hydroxy-2,5-dimethyl-6-(2,4,6-trimethyl-benzyl)-pyrimidine
A mixture of 6-chloro-2,5-dimethylpyrimidin-4-yl-(2,4,6-trimethylphenyl)-acetonitrile (1.5 g, 5.0 mmol) and 60 ml of 85% phosphoric acid was heated at reflux for 2 hours. The mixture was cooled at rt and diluted with water and extracted with chloroform. The organic layer was washed with brine, dried and concentrated to give 1.21 g (95%) of the title compound as a white solid, mp 260-262° C.

reactant | 6-chloro-2,5-dimethylpyrimidin-4-yl-(2,4,6-trimethylphenyl)-acetonitrile | 5.0 mmol, 1.5 g | ClC1=C(C(=NC(=N1)C)C(C#N)C1=C(C=C(C=C1C)C)C)C | C17H18ClN3
reactant | phosphoric acid | 60 ml | P(O)(O)(O)=O | H3O4P
solvent | water | O | H2O
product | 4-Hydroxy-2,5-dimethyl-6-(2,4,6-trimethyl-benzyl)-pyrimidine | 1.21 g, 95% | OC1=NC(=NC(=C1C)CC1=C(C=C(C=C1C)C)C)C | C16H20N2O
